US07388005B2
7.2 2,2-Dimethyl-7-pyrimidin-4-yl-2,3-dihydro-1H-imidazo[1,2-a]pyrimidin-5-one
A mixture containing 2.09 (10.3 mmol) of ethyl 3-(4-pyrimidinyl)-3-oxopropionate, 2.0 g (10.3 mmol) of 5,5-dimethyl-4,5-dihydro-1H-imidazol-2-ylamine hydrobromide and 2.85 g (20.6 mmol) of potassium carbonate in 15 ml of methanol were heated at reflux temperature during 18 h.

reactant | ethyl 3-(4-pyrimidinyl)-3-oxopropionate | N1=CN=C(C=C1)C(CC(=O)OCC)=O | C9H10N2O3
reactant | 5,5-dimethyl-4,5-dihydro-1H-imidazol-2-ylamine hydrobromide | 10.3 mmol, 2.0 g | Br.CC1(CN=C(N1)N)C
reactant | potassium carbonate | 20.6 mmol, 2.85 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 15 ml | CO | CH4O
product | 2,2-Dimethyl-7-pyrimidin-4-yl-2,3-dihydro-1H-imidazo[1,2-a]pyrimidin-5-one | CC1(NC=2N(C(C=C(N2)C2=NC=NC=C2)=O)C1)C | C12H13N5O
